US05700802
Step 2: 3-Hydroxymethylfuro[2,3-b]pyridine
Diisobutylaluminium hydride in toluene (1.5M; 2.4 ml, 3.6 mmol) was added dropwise to a solution of methyl furo[2,3-b]pyridine-3-carboxylate (0.28 g, 1.58 mmol) in tetrahydrofuran (10 ml) at -75° C. The resulting solution was stirred at -75° C. for 40 minutes, the cooling bath removed and the mixture allowed to warm to room temperature. The reaction mixture was stirred at room temperature for 15 minutes, recooled to -40° C. and quenched by sequential addition of methanol (0.5 ml), water (0.25 ml) and 2M sodium hydroxide (0.25 ml). The mixture was allowed to warm up to produce a gel (exotherm observed), which was filtered off and washed with dichloromethane (8×10 ml). The filtrate was evaporated, the residue redissolved in dichloromethane and the solution dried (MgSO4). The solution was concentrated in vacuo to afford the title compound (0.2182 g, 93%) as a colourless solid; δH (CDCl3) 1.94 (1H, br s, CH2OH), 4.85 (2H, s, CH2OH), 7.26 (1H, dd, J 7.6, 4.9 Hz, 5-H), 7.69 (1H, s, 2-H), 8.05 (1H, dd, J 7.6, 1.7 Hz, 4-H), 8.34 (1H, dd, J 4.9, 1.7 Hz, 6-H).

reactant | Diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 3.6 mmol, 1.5M, 2.4 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl furo[2,3-b]pyridine-3-carboxylate | 1.58 mmol, 0.28 g | O1C=C(C=2C1=NC=CC2)C(=O)OC | C9H7NO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Hydroxymethylfuro[2,3-b]pyridine | 0.2182 g, 93% | OCC1=COC2=NC=CC=C21 | C8H7NO2
